US05556864
63(a) 2-(2-{2-[2-(2-Methoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine
Following a procedure similar to that described in Example 35(a), 1.00 g of 2-[2-(2-methoxyphenyl)ethyl]phenol (prepared as described in Preparation 23), 1.47 g of potassium t-butoxide and 1.61 g of 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride were reacted in 10 ml of dimethylacetamide. The mixture was then worked up as described in Example 35(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 300 mg (yield 20%) of the title compound as an oil.

reactant | 2-[2-(2-methoxyphenyl)ethyl]phenol | 1.00 g | COC1=C(C=CC=C1)CCC1=C(C=CC=C1)O | C15H16O2
reactant | potassium t-butoxide | 1.47 g | CC(C)([O-])C.[K+]
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 1.61 g | Cl.ClCCC1N(CCC1)C
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 2-(2-{2-[2-(2-Methoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine | 300 mg, yield 20% | COC1=C(C=CC=C1)CCC1=C(OCCC2N(CCC2)C)C=CC=C1 | C22H29NO2
